Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man with a history of DM2, HTN, and 
CKD. He was sent from his nursing facility after demonstrating 
by his PCP today with concern for hyperkalemia and acute on 
chronic renal insufficiency(potassium 6.3 from 5.4 most 
recently, creatinine 1.7 from 2.3). Mr ___ emphatically 
states that he has been feeling his usual self without any 
unusual signs or symptoms.  His only report is that he has been 
drinking less since moving to the nursing facility in ___ 
becuase he cannot have his orange juice.  He denies, chest pain, 
shortness of breath, upper respiratory or GI symptoms.  He 
denies myalgias, aches, feeling fatigued or disoriented, 
headaches.  Review of systems is completely negative. He reports 
that he received two doses of kayexalate at his nursing facility 
and one dose in the emergency department here.  He has had three 
bowel movements. 
.
In the ED, initial vs were: T96.9 75 143/73 18 97% RA.  Exam was 
unremarkable.  EKG without signs of hyperkalemia, but new TWI.  
He was given 30g Kayexalate (no BM yet).  He was given 500 cc 
fluids of Normal Saline. Her vital signs prior to transfer were 
77 155/87, 22, 100% RA.  Repeat K+ was 5.9.  
.  
On the floor, patient without symptoms.  T 98.3 155/82, 72, 18 
96% RA.  

 
Past Medical History:
1. Diabetes melitus  
2  Hypertension  
3. Status post exploratory laparotomy in ___ in ___, 
reportedly nothing found, question of pancreatic abscess.  
4.  Decreased hearing, reportedly was told he needs a hearing 
aid but did not get one.  

 
Social History:
___
Family History:
Cancer - unable to be specific  
 
Physical Exam:
Vitals: T 98.3 155/82, 72, 18 96% RA.  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, no LAD  
Lungs: Mild rhales at bases b/l.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, mildly distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly   
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 
trace edema  
 
Pertinent Results:
___ 07:02AM BLOOD WBC-10.3 RBC-4.46* Hgb-13.2* Hct-40.0 
MCV-90 MCH-29.6 MCHC-33.0 RDW-15.7* Plt ___
___ 03:55PM BLOOD WBC-10.8 RBC-4.31* Hgb-12.8* Hct-37.8* 
MCV-88 MCH-29.8 MCHC-33.9 RDW-15.7* Plt ___
___ 03:55PM BLOOD Neuts-75.9* Lymphs-15.7* Monos-5.7 
Eos-2.1 Baso-0.5
___ 07:02AM BLOOD Plt ___
___ 03:55PM BLOOD ___ PTT-25.1 ___
___ 01:00PM BLOOD Glucose-267* UreaN-34* Creat-1.9* Na-139 
K-5.6* Cl-109* HCO3-22 AnGap-14
___ 02:23AM BLOOD Na-140 K-6.2* Cl-111*
___ 03:55PM BLOOD Glucose-144* UreaN-42* Creat-2.2* Na-139 
K-6.3* Cl-110* HCO3-22 AnGap-13
___ 01:00PM BLOOD Calcium-8.6 Phos-3.7 Mg-1.9
___ 04:02PM BLOOD K-5.9*
.
Sinus, without signs of hyperkalemia, but new TWI

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of DM2, CKD, 
HTN, who was found on routine labs to be in acute renal failure 
with hyperkalemia. 
.  
# Hyperkalemia:  Likely secondary to renal insufficiency.  No 
obvious medication or dietary culprit. No EKG changes.  He has 
had a similar scenario in the past that resolved with kayexalate 
alone.  He received a total of 70mg of kayexalate overnight with 
slow improvement of his postassium levels.  He was given gentle 
IV fluids and lasix prior to discharge to assist with potassium 
depletion.  Would consider that as the patient is diabetic, he 
likely has a component of hyporenin hypoaldosteronism induced 
Type 4 Renal Tubular acidosis.  He was started on daily 10mg 
Lasix to assist with potassium levels.  Would tolerate a slight 
elevation of creatinine to keep chronically elevated potassium 
levels down.
.
# Acute on chronic renal insuffiency versus progression of 
chronic renal insufficiency, since no creatinine checked since 
___.  Baseline renal insufficiency is likely secondary to 
diabetic nephropathy.   No change in diet, no signs of infection 
that could be trigger for insult. His creatinine improved 
overnight from 2.2 on admission to 1.9 prior to discharge. 
.  
# DM2:  He is on glargine 30 units in the morning and lispro 
sliding scale.  Blood sugars were controlled with an insulin 
sliding scale while an inpatient.
.  
# HTN: He was continued on nifedipine.  His blood pressures were 
elevated on admission and were exacerbated by IV fluids on HD 2. 
He was given lasix to assist with diuresis and hyperkalemia.
.
# HLD: He was continued on his statin.
.  
# Depression: He was continued on citalopram.
.  
# Old CVA: He was cotninued on Aspirin 81 mg.
.
# DVTs: Continued on coumadin. INR subtherapeutic on admission.
 
Medications on Admission:
Acetaminophen 325 mg Tablet Sig: PO Q6H as needed for 
pain/fever.  
Aspirin 81 mg daily 
Citalopram 20 mg daily 
Cycanocobalimin 100mg every day
Doxazosin 2 mg Tablet qHS 
Cholecalciferol (Vitamin D3) 800 unit Tablet Sig:
Folic Acid 0.8 mg Tablet daily
Gabapentin 300 mg Capsule Sig: BID
Simvastatin 20 mg Tablet Sig: 
Nifedipine 90 mg Tablet Sustained Release daily
Warfarin unknown dose 7mg daily
Lantus 30 units at 9AM
Insulin SS
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain.  
3. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO at bedtime.  
5. Nifedipine 90 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
7. Folic Acid 1 mg Tablet Sig: 0.8 Tablet PO DAILY (Daily).  
8. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
9. Furosemide 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
10. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO once a day.  

11. Warfarin 6 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Warfarin 1 mg Tablet Sig: One (1) Tablet PO once a day: take 
with 1 mg tablet for total 7mg daily.  
13. Lantus 100 unit/mL Cartridge Sig: One (1)  Subcutaneous once 
a day: 30 units in the morning with sliding scale insulin 
coverage.  
14. Cyanocobalamin (Vitamin B-12) 100 mcg Tablet Sig: One (1) 
Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Hyperkalemia
2. Chronic Renal Insufficiency, Diabetes II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a high level of potassium.  You were given 
multiple doses of kayexalate, a medication used to lower your 
elevated levels of potassium in your body.  You were started on 
a medication that will help you keep your potassium levels down 
in the future.

In addition to your normal medications, please continue to 
taking lasix unless otherwise directed by your physician.
 
Followup Instructions:
___